US07612075B2
C. 3-(6-Amino-pyridin-3-yl)-acrylic acid
To 3-(6-acetylamino-pyridin-3-yl)-acrylic acid (0.80 g, 3.88 mmol) in ethanol (10 mL) is added 1N NaOH (20 mL). The solution is heated to reflux. After 16 h, the solution is concentrated to ⅓ its volume. The aqueous solution is diluted with water and acidified to pH=2 with 6N HCl. The solution is concentrated to dryness. The residue is dissolved in methanol. The solution is filtered. The organic solution is concentrated. The crude product is purified by RP-HPLC eluting with a gradient of 5%CH3CN/H2O (0.1% TFA) to 30% CH3CN/H2O (0.1%TFA) to give the product as a white solid (0.54 g, 1.93 mmol). 1H NMR (300 MHz, CD3OD) δ8.34 (d, 1H), 8.07 (s, 1H), 7.54 (d, 2H), 7.06 (d, 1H), 6.47 (d, 1H). MS (ion spray) 165, (M+H).

reactant | 3-(6-acetylamino-pyridin-3-yl)-acrylic acid | 3.88 mmol, 0.80 g | C(C)(=O)NC1=CC=C(C=N1)C=CC(=O)O | C10H10N2O3
reactant | NaOH | 1N, 20 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(6-Amino-pyridin-3-yl)-acrylic acid | 1.93 mmol, 0.54 g | NC1=CC=C(C=N1)C=CC(=O)O | C8H8N2O2
